US05736539
1-tert-Butoxycarbonyl-2(S)-(2-vinyloxyethyl)-4-(1-naphthoyl)piperazine
1-tert-Butoxycarbonyl-2(S)-(2-hydroxyethyl)-4-naphthoylpiperazine (0.50 g, 1.3 mmol) was dissolved in freshly distilled ethyl vinyl ether (20 mL) under argon. To this solution was added mercuric acetate (0.436 g, 1.37 mmol) and the reaction refluxed overnight. The reaction was cooled to room temperature, acetic acid added (0.035 mL, 0.58 mmol) and stirred 2 h. The reaction mixture was extracted with ethyl acetate and 5% aqueous sodium hydroxide, and the organic phase further extracted with saturated sodium chloride solution and dried over magnesium sulfate. The crude product was chromatographed on silica gel with 30% ethyl acetate in hexane. The title compound was obtained as a white solid.

reactant | 1-tert-Butoxycarbonyl-2(S)-(2-hydroxyethyl)-4-naphthoylpiperazine | 1.3 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCO | C22H28N2O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl vinyl ether | 20 mL | C(=C)OCC | C4H8O
product | 1-tert-Butoxycarbonyl-2(S)-(2-vinyloxyethyl)-4-(1-naphthoyl)piperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCOC=C | C24H30N2O4
